US08383820B2
Nortropinone (10 g, 0.062 mol) was dissolved in DCM (100 ml) and triethylamine (13.5 ml, 0.13 mol) was added followed by Boc anhydride (21.8 g, 0.10 mol). The reaction mixture was stirred at 20° C. for 3 h. It was then diluted with DCM (60 ml) and washed with 1N HCl, then twice with water and finally with brine. The organic layer was dried over anhydrous sodium sulphate and was concentrated under vacuum to give 15 g (86%) of 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester. 1HNMR (300 MHz, DMSO-d6): δ 4.2 (1H, s), 2.3 (2H, brs), 2.2 (2H, d), 2.0 (2H, brs), 1.6 (2H, d), 1.4 (9H, m).

reactant | Nortropinone | 0.062 mol, 10 g | C1CC2CC(=O)CC1N2 | C7H11NO
reactant | triethylamine | 0.13 mol, 13.5 ml | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 0.10 mol, 21.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-oxo-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 15 g, 86% | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
